US08258130B2
A solution of 4-methyl-2-pyridin-2-yl-pyrimidine-5-carboxylic acid (335 mg, 1.56 mmol), HOTT (638 mg, 1.72 mmol), and DIPEA) (700 μL, 4.01 mmol in DMF (6 mL) is stirred stirred at rt under N2 for 20 min. 5-Fluoro-3-methyl-indol-1-ylamine (241 mg, 1.47 mmol) is added. The resulting mixture is stirred at rt overnight. The mixture is portioned between EtOAc and water. The organic phase is separated, washed with saturated aqueous NaHCO3, water and brine, dried (MgSO4), filtered and concentrated in vacuo. The residue is purified by silica gel chromatography eluting with 60% EtOAc in heptane to afford 4-methyl-2-pyridin-2-yl-pyrimidine-5-carboxylic acid (5-fluoro-3-methyl-indol-1-yl)amide (193 mg, 36%) as a solid. MS: 362 (M+H). 1H NMR (300 MHz, CDCl3): δ 10.41 (s, 1H), 8.84 (s, 1H), 8.55 (s, 1H), 8.48-8.45 (m, 1H), 7.86 (t, 1H), 7.40-7.36 (m, 1H), 7.24-7.20 (m, 2H), 7.05-7.01 (m, 2H), 2.82 (s, 3H), 2.32 (s, 3H).

reactant | 4-methyl-2-pyridin-2-yl-pyrimidine-5-carboxylic acid | 1.56 mmol, 335 mg | CC1=NC(=NC=C1C(=O)O)C1=NC=CC=C1 | C11H9N3O2
reactant | HOTT | 1.72 mmol, 638 mg | CN(C)C(=[N+](C)C)SC1=CC=CC=[N+]1[O-].F[P-](F)(F)(F)(F)F
reactant | DIPEA | CCN(C(C)C)C(C)C | C8H19N
reactant | 5-Fluoro-3-methyl-indol-1-ylamine | 1.47 mmol, 241 mg | FC=1C=C2C(=CN(C2=CC1)N)C | C9H9FN2
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 4-methyl-2-pyridin-2-yl-pyrimidine-5-carboxylic acid (5-fluoro-3-methyl-indol-1-yl)amide | 193 mg, 36% | FC=1C=C2C(=CN(C2=CC1)NC(=O)C=1C(=NC(=NC1)C1=NC=CC=C1)C)C | C20H16FN5O
